US06060485
Preparation of N-{1-(4-methoxybenzyl)-4-piperidinyl}-2-butoxy-3-methyl-2-phenylbutanamide (the invention compound, Compound No. 29)
N-(4-Piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide (invention compound, Compound No. 27) (4.5 g) was dissolved in dioxane (25 ml) and water (25 ml). To the resulting solution, potassium carbonate (0.7 g) and 4-methoxybenzyl chloride (0.8 g) were added, followed by stirring at room temperature for 2 days. To the reaction mixture, was added water (40 ml). The resulting mixture was extracted with an ethyl acetate. The extract was then dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by a silica gel column to obtain the invention compound (Compound No. 29, 0.60 g, 26.4%) as a colorless oil.

reactant | N-(4-Piperidinyl)-2-butoxy-3-methyl-2-phenylbutanamide | 4.5 g | N1CCC(CC1)NC(C(C(C)C)(C1=CC=CC=C1)OCCCC)=O | C20H32N2O2
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 0.8 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | N-{1-(4-methoxybenzyl)-4-piperidinyl}-2-butoxy-3-methyl-2-phenylbutanamide | COC1=CC=C(CN2CCC(CC2)NC(C(C(C)C)(C2=CC=CC=C2)OCCCC)=O)C=C1 | C28H40N2O3
